US07700609B2
2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carboxylic acid tert-butyl ester
2-(3-Sulfamoyl-phenylamino)-5,6-dihydro-thieno[2,3-h]quinazoline-8-carboxylic acid tert-butyl ester (4.90 g, 10.69 mmol) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (4.85 g, 21.37 mmol) were suspended in dry 1,4-dioxane (300 mL) and heated at reflux overnight. After allowing the reaction to cool to room temperature the mixture was concentrated under reduced pressure and partitioned between ethyl acetate and 1:1 saturated Na2CO3:brine. The organic layer was washed with further portions of 1:1 saturated Na2CO3:brine (2×200 mL), dried over Na2SO4, and filtered. Silica (˜60 mL) was added to the filtrate and the resulting suspension was concentrated under reduced pressure. The resulting solid was purified by silica gel chromatography (80-90% EtOAc in hexanes on ˜800 mL of silica) to afford the title compound as a yellow solid (1.84 g, 38% yield) and further impure material (˜2 g). MS (ES+) 457. δH (d6 DMSO) 1.6 (9H, s), 7.3 (2H, br s), 7.4-7.6 (2H, m), 7.8-7.9 (1H, m), 8.0 (2H, m), 8.7 (1H, s), 9.1 (1H, br s), 9.4 (1H, s), 10.4-10.5 (1H, s).

reactant | 2-(3-Sulfamoyl-phenylamino)-5,6-dihydro-thieno[2,3-h]quinazoline-8-carboxylic acid tert-butyl ester | 10.69 mmol, 4.90 g | C(C)(C)(C)OC(=O)C1=CC2=C(CCC=3C=NC(=NC23)NC2=CC(=CC=C2)S(N)(=O)=O)S1 | C21H22N4O4S2
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 21.37 mmol, 4.85 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
product | 2-(3-Sulfamoyl-phenylamino)-thieno[2,3-h]quinazoline-8-carboxylic acid tert-butyl ester | 1.84 g, 38% yield | C(C)(C)(C)OC(=O)C1=CC=2C(=CC=C3C=NC(=NC23)NC2=CC(=CC=C2)S(N)(=O)=O)S1 | C21H20N4O4S2
